US04761501
1-[(4-bromophenyl)[(dimethylamino)carbonyl]methyl]-cyclohexanol
4-bromo-N,N-dimethylbenzene acetamide (15 g, 0.06 mole) was added to dry T.H.F. (250 ml) and the solution cooled to -78° C. under nitrogen. Straight chain butyl lithium in hexane (43.3 ml, 0.06 mole) was added dropwise, the temperature being maintained below -70° C. throughout. An orange coloured precipitate formed. After addition, the reaction mixture was maintained near -70° C. for 20 minutes and cyclohexanone (7.5 ml, 0.07 mole) was added. After a further 50 minutes at -78° C. the reaction mixture was poured into stirring saturated ammonium chloride solution. The layers were separated and the aqueous layer extracted with diethyl ether. The combined organic solution was washed with brine, dried over magnesium sulfate and evaporated. The product crystallised and was filtered with isopropanol (9.8 g, m.p. 140 °-144° C.).

reactant | 4-bromo-N,N-dimethylbenzene acetamide | 0.06 mole, 15 g | BrC1=CC=C(C=C1)CC(=O)N(C)C | C10H12BrNO
reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 0.06 mole, 43.3 ml | CCCCCC | C6H14
reactant | cyclohexanone | 0.07 mole, 7.5 ml | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
product | 1-[(4-bromophenyl)[(dimethylamino)carbonyl]methyl]-cyclohexanol | BrC1=CC=C(C=C1)C(C1(CCCCC1)O)C(=O)N(C)C | C16H22BrNO2
